US06897208B2
A mixture of 4-methoxy-phenylenediamine dihydrochloride (10 g), sodium L-lactate (10 g) and hydrochloric acid (60 mL, 4M) was heated at 70° C. for 48 hours. The reaction mixture was cooled to room temperature, then treated with ammonium hydroxide. The resulting precipitate was filtered and dried to give 1-(5-methoxy-1H-benzoimidazol-2-yl)-ethanol (5.14 g). (b) 1-(5-Methoxy-1-benzoimidazole)-1-propanol

reactant | 4-methoxy-phenylenediamine dihydrochloride | 10 g | Cl.Cl.COC1=CC(=C(C=C1)N)N
reactant | sodium L-lactate | 10 g | C([C@@H](O)C)(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 4M, 60 mL | Cl | ClH
product | 1-(5-methoxy-1H-benzoimidazol-2-yl)-ethanol | 5.14 g | COC1=CC2=C(NC(=N2)C(C)O)C=C1 | C10H12N2O2
